US07691850B2
Preparation of N-[((3S)-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxamide
To a stirred solution of [((3S)-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine (0.14 g, 0.49 mmole) in dry in DMF (25 mL) at RT was added diisopropylethylamine (0.10 mL, 0.54 mmole), 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid (0.10 g, 0.49 mmole), hydroxybenzotriazole hydrate (0.73 g, 0.54 mmole) and EDC (0.10 g, 0.54 mmole). After 18 h, the reaction contents were concentrated under high vacuum. Purification on silica (CHCl3/MeOH, 9:1 containing 5% NH4OH) afforded the title compound (0.17 g, 75%) as a light yellow solid: 1H NMR (400 MHz, CD3OD) δ 9.05 (m, 1H), 8.47 (d, J=9.2 Hz, 1H), 8.25 (m, 2H), 7.92 (m, 1H), 7.72 (m, 1H), 7.62 (d, J=9.2 Hz, 1H), 4.22 (s, 3H), 3.91 (m, 2H), 3.82 (m, 2H), 3.67 (s, 2H), 3.65 (m, 2H), 3.44 (m, 2H), 3.18 (m, 2H), 2.98 (m, 1H), 2.37 (m, 1H), 2.05 (m, 1H). LC-MS (ES) m/e 479 (M+H)+.

reactant | [((3S)-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine | 0.49 mmole, 0.14 g | COC=1N=C2C(=CC=NC2=CC1)CCN1C[C@@H](CC1)CN | C16H22N4O
reactant | diisopropylethylamine | 0.54 mmole, 0.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid | 0.49 mmole, 0.10 g | O=C1NC2=C(SC1)C=CC(=N2)C(=O)O | C8H6N2O3S
reactant | hydroxybenzotriazole hydrate | 0.54 mmole, 0.73 g | O.OC1=CC=CC=2NN=NC21
reactant | EDC | 0.54 mmole, 0.10 g
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-[((3S)-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxamide | 0.17 g, 75% | COC=1N=C2C(=CC=NC2=CC1)CCN1C[C@@H](CC1)CNC(=O)C=1C=CC=2SCC(NC2N1)=O | C24H26N6O3S
